US07056917B2
(K) tert-Butyl (E)-3-{2-hydroxy-8-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-propenoate
2-Hydroxy-8-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-carbaldehyde (45 mg, 0.13 mmol) dissolved in tetrahydrofuran (2 ml) and dimethylformamide (1 ml) was added with (tert-butoxycarbonylmethylene)triphenyl-phosphorane (60 mg, 0.16 mmol) and refluxed by heating at 100° C. for 2 hours. The reaction solution was returned to room temperature and concentrated under reduced pressure, and the residue was purified by thin layer silica gel chromatography (chloroform:methanol=20:1) to obtain 36 mg (62%) of the title compound.

reactant | 2-Hydroxy-8-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-carbaldehyde | 0.13 mmol, 45 mg | OC=1N=C2N(C(C1C=O)=O)C=CC(=C2)OCC=2SC=C(N2)C(C)C | C16H15N3O4S
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | (tert-butoxycarbonylmethylene)triphenyl-phosphorane | 0.16 mmol, 60 mg | C(C)(C)(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | tert-Butyl (E)-3-{2-hydroxy-8-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-propenoate | 36 mg, 62% | OC=1N=C2N(C(C1/C=C/C(=O)OC(C)(C)C)=O)C=CC(=C2)OCC=2SC=C(N2)C(C)C | C22H25N3O5S
